US05756504
1-(2-Methoxy-4-(-1-(3-ethoxy-3-cyclobutene-1,2-dion-4-yl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide
1-(2-Methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide (128 mg, 0.274 mmole) was dissolved in 4 ml of absolute ethanol. 3,4-Diethoxy-3-cyclobutene-1,2-dione (62 mg, 0.364 mmole), prepared according to the procedure in Angew. Chem. Int. Ed. 1966, 5(10), 890, was then added to the solution and the resulting reaction mixture was heated to reflux for 72 hr. The reaction mixture was cooled and filtered. The filter cake was washed with cold ethanol and dried to give the title compound as a white solid: m.p. 155°-157° C.

reactant | 1-(2-Methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide | 0.274 mmole, 128 mg | COC1=C(C=CC(=C1)OC1CCNCC1)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C26H34N4O4
reactant | 3,4-Diethoxy-3-cyclobutene-1,2-dione | 0.364 mmole, 62 mg | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-(2-Methoxy-4-(-1-(3-ethoxy-3-cyclobutene-1,2-dion-4-yl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide | COC1=C(C=CC(=C1)OC1CCN(CC1)C1=C(C(C1=O)=O)OCC)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C32H38N4O7
